US04163018
Water (20 L) was added to cetyl phosphate (molar ratio of diester/monoester=1/1; acid value, 194 mg KOH/g) (1 kg) while heating at 70° C., whereby the cetyl phosphate was dispersed uniformly. An aqueous solution of sodium hydroxide (500 g/L) (278 ml) was dropwise added to the mixture while keeping the said temperature. When the addition was finished, the mixture showed a pH of about 11. Further, stirring was continued at 70° C. for 60 minutes. An aqueous solution of barium chloride (200 g/L) (1825 ml) was gradually added thereto at a temperature of 70 to 80° C. After the addition was finished, the mixture was stirred at about 70° C. for 30 minutes. On confirming that the remaining barium ion became constant, the reaction was finished. The product was collected, washed with water, filtered, dried at 70° C. for 76 hours and pulverized in a mortar to give barium cetyl phosphate (1154 g). Yield, 93.5%. M.P., 174 to 183° C. Apparent specific volume, 3.6 ml/g. Elementary analysis: calcd., P=5.8%, Ba=19.2%; found, P=5.9%, Ba=18.0%.

reactant | cetyl phosphate | 194 mg | P(=O)(OCCCCCCCCCCCCCCCC)([O-])[O-]
reactant | sodium hydroxide | 278 ml | [OH-].[Na+]
reactant | barium chloride | 1825 ml | [Cl-].[Ba+2].[Cl-]
solvent | Water | 20 L | O | H2O
product | barium cetyl phosphate | 1154 g | P(=O)(OCCCCCCCCCCCCCCCC)([O-])[O-].[Ba+2] | InChI=1S/C16H35O4P.Ba/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-20-21(17,18)19;/h2-16H2,1H3,(H2,17,18,19);/q;+2/p-2
